US08471005B2
2-{6-[7-(6-Methoxy-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-3,4-dihydro-1H-isoquinolin-2-yl}-acetamide
7-(6-Methoxy-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-ol (0.0609 g, 0.251 mmol) and 2-(6-Amino-3,4-dihydro-1H-isoquinolin-2-yl)-acetamide (0.064 g, 0.31) were reacted in an analogous manner to Example 908D at 50° C. for 16 h. The reaction mixture was concentrated and purified by Gilson RP-HPLC. HPLC rt=2.083 min, purity=91%. 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 10.23 (bs, 1H), 9.63 (s, 1H), 9.10 (s, 1H), 9.01 (s, 1H), 8.44 (dd, J=8.9 Hz, 2.2 Hz, 1H), 7.96 (s, 1H), 7.91 (s, 1H), 7.75 (s, 1H), 7.40 (d, J=8.9 Hz, 1H), 7.21 (d, J=4.4 Hz, 1H), 7.13 (d, J=8.9 Hz, 1H), 7.04 (d, J=8.6 Hz, 1H), 6.98 (d, J=4.5 Hz, 1H), 4.50 (m, 1H), 4.33 (m, 1H), 4.05 (m, 2H), 3.95 (s, 3H), 3.70 (m, 1H), 3.43 (m, 1H), 3.23 (m, 1H), 3.08 (m, 1H).

reactant | 7-(6-Methoxy-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-ol | 0.251 mmol, 0.0609 g | COC1=CC=C(C=N1)C1=CC=C2C=NC(=NN21)O | C12H10N4O2
reactant | 2-(6-Amino-3,4-dihydro-1H-isoquinolin-2-yl)-acetamide | 0.064 g | NC=1C=C2CCN(CC2=CC1)CC(=O)N | C11H15N3O
product | 2-{6-[7-(6-Methoxy-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-3,4-dihydro-1H-isoquinolin-2-yl}-acetamide | COC1=CC=C(C=N1)C1=CC=C2C=NC(=NN21)NC=2C=C1CCN(CC1=CC2)CC(=O)N | C23H23N7O2
